US05405861
A mixture of 6,7-dihydro-5H-pyrrolo[1,2-c]imidazole (7 g) and paraformaldehyde (4 g) was heated at 160° C., to which was added, 20 minutes later, paraformaldehyde (2 g), and, further 20 minutes later, paraformaldehyde (1 g), followed by heating for 45 minutes. The reaction mixture was subjected to a silica gel chromatography (4.0 cm×15 cm), eluting with methanol-methylene chloride (1:9). The object fraction was concentrated. To the concentrate were added ethanol and diethyl ether to give 6,7-dihydro-3-hydroxymethyl-5H-pyrrolo[1,2-c]imidazole (3.4 g) as colorless needles, m.p. 110°-120° C.

reactant | 6,7-dihydro-5H-pyrrolo[1,2-c]imidazole | 7 g | C1=C2N(C=N1)CCC2 | C6H8N2
reactant | paraformaldehyde | 4 g | C=O | CH2O
reactant | paraformaldehyde | 2 g | C=O | CH2O
reactant | paraformaldehyde | 1 g | C=O | CH2O
product | 6,7-dihydro-3-hydroxymethyl-5H-pyrrolo[1,2-c]imidazole | 3.4 g | OCC1=NC=C2N1CCC2 | C7H10N2O
